US08470859B2
5-chloro-2-imino-1-[2-methoxy-5-(methylsulfonyl)benzyl]-1,2-dihydropyridine-3-carboxamide hydrobromide
To a solution of 2-amino-5-chloronicotinamide (0.15 g) in N,N-dimethylformamide (3 ml) was added 2-(bromomethyl)-1-methoxy-4-(methylsulfonyl)benzene (0.29 g), and the mixture was stirred at 100° C. for 4 hr. The reaction mixture was diluted with ethyl acetate. The precipitate was collected by filtration and washed with ethyl acetate. The obtained precipitate was recrystallized from methanol-ethyl acetate to give the title compound (110 mg).

reactant | 2-amino-5-chloronicotinamide | 0.15 g | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | 2-(bromomethyl)-1-methoxy-4-(methylsulfonyl)benzene | 0.29 g | BrCC1=C(C=CC(=C1)S(=O)(=O)C)OC | C9H11BrO3S
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-imino-1-[2-methoxy-5-(methylsulfonyl)benzyl]-1,2-dihydropyridine-3-carboxamide hydrobromide | 110 mg | Br.ClC=1C=C(C(N(C1)CC1=C(C=CC(=C1)S(=O)(=O)C)OC)=N)C(=O)N | InChI=1S/C15H16ClN3O4S.BrH/c1-23-13-4-3-11(24(2,21)22)5-9(13)7-19-8-10(16)6-12(14(19)17)15(18)20;/h3-6,8,17H,7H2,1-2H3,(H2,18,20);1H
